US07408025B2
4-Chloro-2-methylquinoline (0.4 ml, 0.5M solution in dioxane) was treated with selenium dioxide (0.2 ml, 0.9M solution in 9/1 dioxane/water) and heated to 90° C. overnight. The mixture was cooled to room temperature and diluted with water (1 ml). The mixture was then extracted with ethyl acetate (3×2 ml). The organic extract was then dried in vacuo to give 4-chloro-2-quinolinecarboxaldehyde which was carried forward without further purification. Daptomycin (1 ml, 0.1 M in dry dimethylformamide) was treated successively with 4-chloro-2-quinolinecarboxaldehyde prepared above and diluted in dry dimethylformamide (0.2 ml) and sodium triacetoxyborohydride (0.4 ml, 1.5M in dry dimethylformamide). The mixture was capped and shaken briefly. After 24 h the mixture was treated with water (0.2 ml) and loaded on an IBSIL-C8 5μ 250×20.2 mm column. The column was eluted at 25 ml/min under the gradient conditions of 30-60% acetonitrile in 5 mM ammonium phosphate buffer over 25 min followed by holding at 60% acetonitrile in 5 mM ammonium phosphate buffer for another 10 min. The desired fractions were collected and the acetonitrile was removed by evaporation. The residue was applied to a Bondesil 40μ C8 resin column, washed with water and the product eluted off with methanol. Evaporation of the methanol gave compound 285 as a yellow solid.

reactant | 4-Chloro-2-methylquinoline | 0.5M, 0.4 ml | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | selenium dioxide | 0.9M, 0.2 ml | [Se](=O)=O | O2Se
solvent | water | 1 ml | O | H2O
product | 4-chloro-2-quinolinecarboxaldehyde | ClC1=CC(=NC2=CC=CC=C12)C=O | C10H6ClNO
